US05280027
Using an analogous procedure to that described in Example 19, pentafluorophenyl p-[N-(7-bromo-2-methyl-4-oxo-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzoate was reacted with 2-amino-2-(3-nitrophenyl)ethanol and the pivaloyloxymethyl protecting group was removed from the resultant product to give p-[N-(7-bromo-2-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]-N-[2-hydroxy-1-(3-nitrophenyl)ethyl]benzamide (containing 0.25 equivalents of water) in 61% yield, m.p. 221°-232° C.

reactant | pentafluorophenyl p-[N-(7-bromo-2-methyl-4-oxo-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzoate | BrC1=C(C=C2C(N(C(=NC2=C1)C)COC(C(C)(C)C)=O)=O)CN(CC#C)C1=CC=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1 | C32H25BrF5N3O5
reactant | 2-amino-2-(3-nitrophenyl)ethanol | NC(CO)C1=CC(=CC=C1)[N+](=O)[O-] | C8H10N2O3
product | p-[N-(7-bromo-2-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]-N-[2-hydroxy-1-(3-nitrophenyl)ethyl]benzamide | 0.25 equivalents, 61% yield | BrC1=C(C=C2C(NC(=NC2=C1)C)=O)CN(CC#C)C1=CC=C(C(=O)NC(CO)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C28H24BrN5O5
